US07585874B2
Cyclopentanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-yl]-amide
As described for Example 47, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-ylamine (92 mg, 0.32 mmol) was converted, using cyclopentanecarboxylic acid instead of 3-pyridylacetic acid, to the title compound (11.1 mg, 10%) which was obtained as an off-white solid. MS: m/e=387.1 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-ylamine | 0.32 mmol, 92 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)N)C1 | C17H14N4O
reactant | cyclopentanecarboxylic acid | C1(CCCC1)C(=O)O | C6H10O2
product | Cyclopentanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-yl]-amide | 11.1 mg, 10% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)NC(=O)C2CCCC2)C1 | C23H22N4O2
